US06369110B1
3,3-Dimethyl-5-oxo-5-phenylpentanoic acid (17.0 g, 77.2 mmol) was subjected to hydrogen catalytic reduction in acetic acid (170 ml) by using 10% palladium-carbon as a catalyst. After completion of the reaction, the catalyst was filtered off and the solvent was distilled off under reduced pressure to obtain 14.2 g of 3,3-dimethyl-5-phenylpentanoic acid.

reactant | 3,3-Dimethyl-5-oxo-5-phenylpentanoic acid | 77.2 mmol, 17.0 g | CC(CC(=O)O)(CC(C1=CC=CC=C1)=O)C | C13H16O3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 170 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | [C].[Pd]
product | 3,3-dimethyl-5-phenylpentanoic acid | 14.2 g | CC(CC(=O)O)(CCC1=CC=CC=C1)C | C13H18O2
